US04451462
A solution of 11.07 g (30 mmoles) of 5-chloro-2-methoxy-4-(piperidin-1-yl)-phenylthioacetic acid morpholinamide in 120 ml of glacial acetic acid and 30 ml of concentrated hydrochloric acid is boiled under reflux for 22 hours. The reaction mixture is cooled, diluted with water and extracted with methylene chloride. The combined methylene chloride phases are washed with water, dried over sodium sulphate and concentrated by evaporation in a high vacuum rotary evaporator. Chromatography over silica gel with chloroform/methanol (19:1) yields 5-chloro-2-methoxy-4-(piperidin-1-yl)-phenylacetic acid which, after recrystallisation with methylene chloride/hexane, melts at 120°-122°.

reactant | 5-chloro-2-methoxy-4-(piperidin-1-yl)-phenylthioacetic acid morpholinamide | 30 mmoles, 11.07 g | N1(CCOCC1)C(=O)N.ClC=1C(=CC(=C(C1)CC(=S)O)OC)N1CCCCC1
solvent | acetic acid | 120 ml | C(C)(=O)O | C2H4O2
solvent | hydrochloric acid | 30 ml | Cl | ClH
solvent | water | O | H2O
product | 5-chloro-2-methoxy-4-(piperidin-1-yl)-phenylacetic acid | ClC=1C(=CC(=C(C1)CC(=O)O)OC)N1CCCCC1 | C14H18ClNO3
